US05994548
Levobupivacaine (S,S)-tartrate (50 g, 0.069 mol) was suspended in isopropanol (150 ml) and heated to 50° C. Hydrogen chloride (5 g, 0.14 mol) gas was introduced. The temperature rose to 65° C. and the solids dissolved. The mixture was heated to 80° C. to ensure complete dissolution. The mixture was cooled to 5° C. and a solid crystallised. The solid was filtered off and washed with isopropanol (2×50 ml) and dried in vacuo to give levobupivacaine hydrochloride (21.9 g, 40%).

reactant | Levobupivacaine (S,S)-tartrate | 0.069 mol, 50 g | CCCCN1CCCC[C@H]1C(=O)NC=2C(=CC=CC2C)C.C(=O)([O-])[C@@H](O)[C@H](O)C(=O)[O-]
reactant | Hydrogen chloride | 0.14 mol, 5 g | Cl | ClH
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | levobupivacaine hydrochloride | 21.9 g, 40% | CCCCN1CCCC[C@H]1C(=O)NC=2C(=CC=CC2C)C.Cl | InChI=1S/C18H28N2O.ClH/c1-4-5-12-20-13-7-6-11-16(20)18(21)19-17-14(2)9-8-10-15(17)3;/h8-10,16H,4-7,11-13H2,1-3H3,(H,19,21);1H/t16-;/m0./s1
